US08168658B2
To a solution of the trifluoroacetic acid salt of tert-butyl [2-[(4-{2-anilino-1-[(dimethylamino)methyl]-2-oxoethyl}benzoyl)amino]-4-(3-thienyl)phenyl]carbamate (374 mg, 0.54 mmol) in CH2Cl2 (8 mL) was added trifluoroacetic acid (2 mL), and the reaction was stirred at room temperature for 1 h. Concentration yielded a yellow residue that was purified by reverse phase HPLC (10-70% MeCN/water). The resulting solid was dissolved in CH2Cl2 (with a small amount of MeOH), neutralized with sat. NaHCO3, washed with brine, dried (MgSO4), and evaporated to yield N-[2-amino-5-(3-thienyl)phenyl]-4-{2-anilino-1-[(dimethylamino)methyl]-2-oxoethyl}benzamide as an off-white solid.

reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl [2-[(4-{2-anilino-1-[(dimethylamino)methyl]-2-oxoethyl}benzoyl)amino]-4-(3-thienyl)phenyl]carbamate | 0.54 mmol, 374 mg | N(C1=CC=CC=C1)C(C(CN(C)C)C1=CC=C(C(=O)NC2=C(C=CC(=C2)C2=CSC=C2)NC(OC(C)(C)C)=O)C=C1)=O | C33H36N4O4S
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | N-[2-amino-5-(3-thienyl)phenyl]-4-{2-anilino-1-[(dimethylamino)methyl]-2-oxoethyl}benzamide | NC1=C(C=C(C=C1)C1=CSC=C1)NC(C1=CC=C(C=C1)C(C(=O)NC1=CC=CC=C1)CN(C)C)=O | C28H28N4O2S
